US05672588
(R)-1-Phenylthio-2-propylamine (0.4 g, 1.96 mmol) was reacted with 9-(2,3.5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.2 g, 1.9 mmol) in dioxan (15 ml) in the presence of triethylamine (0.4 g, 4 mmol). The reaction mixture was stirred at room temperature for 72 h, heated at 50° C. for 24 h, cooled, filtered and evaporated. The product (after purification by flash chromatography) was debenzoylated with methanolic ammonia to provide the title 2-chloro- N-[(R)-1-phenylthio-2-propyl]adenosine (after column chromatography) as a foam (0.47 g, 52%), 1H NMR (DMSO-d6)δ 1.34 (3H, d, --CH3), 3.01 (1H, dd, --C--H), 3.52-3.60 (1H, m, H-5'a), 3.62-3.72 (1H, m, H-5'b), 3.95 (1H, q, H-4'), 4.13 (1H, m, H-3'), 4.30-4.45 (1H, m, --C--H), 4.53 (1H, m, H-2'), 5.09, 5.22, 5.50 (3H, 3 br, 2', 3' and 5'-OH), 5.84 (1H, d, H-1'), 7.19 (1H, t, Ar--H), 7.30 (2H, t, Ar--H), 7.45 (2H, d, Ar--H), 8.29-8.45 (2H, s & m, H-8 and N--H).

reactant | (R)-1-Phenylthio-2-propylamine | 1.96 mmol, 0.4 g | C1(=CC=CC=C1)SC[C@@H](C)N | C9H13NS
reactant | 9-(2,3.5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 1.9 mmol, 1.2 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | triethylamine | 4 mmol, 0.4 g | C(C)N(CC)CC | C6H15N
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 2-chloro- N-[(R)-1-phenylthio-2-propyl]adenosine | 0.47 g, 52% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](CSC1=CC=CC=C1)C | C19H22ClN5O4S
